US04788199
3-Phenyl-1-isoquinolinepropanoic acid (6.7 g) and concentrated sulphuric acid (7 cc) in ethanol (0 cc) are stirred for 20 hours at 20° C. The solution is poured into water (400 cc) and the aqueous phase alkalinised with concentrated ammonia solution. The mixture is extracted with methylene chloride (3×100 cc), and the organic phase dried and evaporated to dryness under reduced pressure. Ethyl 3-phenyl-1-isoquinolinepropionate (6.3 g), m.p. 60° C., is obtained.

reactant | 3-Phenyl-1-isoquinolinepropanoic acid | 6.7 g | C1(=CC=CC=C1)C=1N=C(C2=CC=CC=C2C1)CCC(=O)O | C18H15NO2
reactant | sulphuric acid | 7 cc | S(O)(O)(=O)=O | H2O4S
reactant | water | 400 cc | O | H2O
reactant | ammonia | N | H3N
reactant | ethanol | 0 cc | C(C)O | C2H6O
product | Ethyl 3-phenyl-1-isoquinolinepropionate | 6.3 g | C1(=CC=CC=C1)C=1N=C(C2=CC=CC=C2C1)CCC(=O)OCC | C20H19NO2
